US08383657B2
N-1,3-thiazol-2-ylpyrrolidine-1-carboxamide
Thiazol-2-amine (7.01 g, 10.0 mmol) was dissolved into dichloromethane (700 mL) and cooled to −60° C. The resulting suspension was treated with 20% phosgene in toluene (54 mL, 103 mmol) over 5 minutes and stirred for 10 minutes more before the addition of diisopropylethylamine (24 mL, 138 mmol). After the mixture was stirred for another 20 minutes near −60° C., pyrrolidine (17.5 mL, 210 mmol) was added, and after a few minutes the cold bath was removed. The mixture was warmed to 10° C. over a period of more than an hour, and then was quenched with concentrated aqueous ammonium hydroxide (100 mL) and stirred thoroughly. The aqueous phase was separated and extracted with dichloromethane, and the combined organic phases were washed twice with water; each aqueous phase was back-extracted with dichloromethane. The combined organic phases were concentrated to a slurry and diluted with 2:1 hexanes/ethyl acetate (30 mL). The solids were collected by filtration, rinsed with more 2:1 hexanes/ethyl acetate, slurried and rinsed in 2:1 hexanes/dichloromethane, and dried under vacuum to give the title compound.

reactant | Thiazol-2-amine | 10.0 mmol, 7.01 g | S1C(=NC=C1)N | C3H4N2S
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 103 mmol, 54 mL | C1(=CC=CC=C1)C | C7H8
reactant | diisopropylethylamine | 138 mmol, 24 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | pyrrolidine | 210 mmol, 17.5 mL | N1CCCC1 | C4H9N
solvent | dichloromethane | 700 mL | ClCCl | CH2Cl2
product | N-1,3-thiazol-2-ylpyrrolidine-1-carboxamide | S1C(=NC=C1)NC(=O)N1CCCC1 | C8H11N3OS
